US08383827B2
A 40 mL scintillation vial was charged with ({[5-(3-chloro-4-cyano-phenyl)-pyridin-3-yl]-cyclopropyl-methyl}-ethanesulfonyl-amino)-acetic acid methyl ester (130 mg, 0.290 mmol) in THF (5 mL). The reaction mixture was cooled to −78° C. and lithium aluminium hydride (1M in THF, 0.726 mL, 0.726 mmol) was added. The reaction was left to stir at −78° C. for 1 h. The reaction was quenched with water (1 mL), warmed to room temperature and concentrated in vacuo. The crude was dissolved in DMSO (4 mL) and purified using Xbridge C18 eluting with a 10 to 100% AGN-water to afford ethanesulfonic acid {[5-(3-chloro-4-cyano-phenyl)-pyridin-3-yl]-cyclopropyl-methyl}-(2-hydroxy-ethyl)-amide as a white solid.

reactant | ({[5-(3-chloro-4-cyano-phenyl)-pyridin-3-yl]-cyclopropyl-methyl}-ethanesulfonyl-amino)-acetic acid methyl ester | 0.290 mmol, 130 mg | COC(CN(S(=O)(=O)CC)C(C1CC1)C=1C=NC=C(C1)C1=CC(=C(C=C1)C#N)Cl)=O | C21H22ClN3O4S
reactant | lithium aluminium hydride | 0.726 mmol, 1M, 0.726 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethanesulfonic acid {[5-(3-chloro-4-cyano-phenyl)-pyridin-3-yl]-cyclopropyl-methyl}-(2-hydroxy-ethyl)-amide | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C(C1CC1)N(S(=O)(=O)CC)CCO | C20H22ClN3O3S
